US04595687
4-[[2-phenyl-(2-oxazolin-4-yl)]methylthio]phenol
To a solution of 11.1 g (67mm) of 2-phenyl-2-oxazolin-4-yl methyl alcohol in 150 ml methylene chloride was added 5.25 ml (67 mm) of mesylchloride at 0° C. To this stirred solution under argon was added 9.4 ml (67 mm) of triethylamine over a 30 minute period. The methylene chloride was removed in vacuo. The residue was diluted with 10 ml DMF and pumped on at high vacuum. 8.5 ml (67 mm) of 4-mercaptophenol in 5 ml of DMF was added followed by 9.4 ml (67 mm) of triethyamine. After stirring for 1 day, 0.5 g sodium borohydride was added. After a total of 3 days another 0.5 of sodium borohydride was added followed by a one hour delay. The reaction mixture was poured into 300 ml ethylacetate and washed with 3×150 ml of water, 150 ml 0.1 N, HCl, and brine, then dried over Na2SO4 and concentrated to a yellow oil. Dilution with 50 ml ethyl acetate and seeding gave 4.23 g of a white crystalline solid isolated by filtration mp. 114.5°-165.5° C.

reactant | 2-phenyl-2-oxazolin-4-yl methyl alcohol | 11.1 g | C1(=CC=CC=C1)C=1OCC(N1)CO | C10H11NO2
reactant | mesylchloride | 5.25 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 9.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-[[2-phenyl-(2-oxazolin-4-yl)]methylthio]phenol | 4.23 g | C1(=CC=CC=C1)C=1OCC(N1)CSC1=CC=C(C=C1)O | C16H15NO2S
